US05075445
To a solution of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.28 g, 0.9 mmol) in methanol (2.5 ml), methanolic sodium methoxide (1 M, 1.0 ml) was added and the solution was stirred at 50° for 1.5 hours. The solution was allowed to cool and hydrochloric acid (5 M, 0.2 ml) and water (0.4 ml) were added. After 15 minutes the solution was neutralised with 10% aqueous sodium hydroxide. Silica gel was added and the solvent removed. Column chromatography on silica gel eluting with chloroform-methanol mixtures afforded 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-methoxypurine (185 mg, 77%), m.p. 117°-119° C.; λmax (H2O) 213 (ε22,100), 249 (ε6,860), and 280 (ε8,410) nm; νmax (KBr) 3400, 3240, 3210, 1640, 1610, 1590, 1410, and 1395 cm-1 ; δ H [(CD3)2SO] 1.47 (1 H, m, CHCH2CH2), 1.74 (2 H, q, J 7 Hz, CHCH2CH2), 3.40 (4 H, d, J 6 Hz, 2×CH2O), 3.95 (3 H, s, OCH3), 4.06 (2 H, t, J 7 Hz, CH2N), 4.4 (2 H, br, D2O exchangeable, 2×OH), 6.33 (2 H, s, D2O exchangeable, 2-NH2), and 7.46 (1 H, s, 8-H) (Found: M+ 267.1340; C11H17N5O3 requires M+ 267.1331).

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 0.9 mmol, 0.28 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | hydrochloric acid | 5 M, 0.2 ml | Cl | ClH
reactant | water | 0.4 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 2.5 ml | CO | CH4O
solvent | sodium methoxide | 1 M, 1.0 ml | C[O-].[Na+]
product | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-methoxypurine | 185 mg, 77% | NC1=NC(=C2N=CN(C2=N1)CCC(CO)CO)OC | C11H17N5O3
